US06284894B1
To a solution of t-butylnitrite (535 μl, 4.5 mmol) and allyl bromide (3.9 ml, 45.0 mmol) in CH3CN (3 ml), ethyl 3-amino-5-nitrobenzoate (631 mg, 3.0 mmol) was added during 20 minutes while maintaining the temperature of the reaction mixture at 10-12° C. At the end of the addition of the aniline, extra t-butylnitrite (180 μl, 1.5 mmol) was added to the reaction mixture which then was stirred at 25° C. for one hour. The volatile material in the reaction mixture was removed at reduced pressure. Column chromatography (heptane-ethyl acetate 47:3) gave 470 mg (67%) of ethyl 3-allyl-5-nitrobenzoate as a light yellow oil, which crystallized upon standing overnight in the refrigerator. 1H NMR (CDCl3, 400 MHz) δ 8.70, (m, 1H), 8.24, (m, 1H), 8.20, (m, 1H), 6.03-5.91, (m, 1H), 5.24-5.13, (m, 2H), 4.44, (q, 2H, J=7.1 Hz), 3.56, (d, 2H, J=6.5 Hz), 1.44, (t, 3H, J=7.1 Hz); 13C NMR (CDCl3, 100 MHz) δ 165.0, 148.8, 143.1, 135.9, 135.5, 132.6, 127.7, 122.9, 118.4, 62.3, 39.9, 14.7; Anal HRMS Calcd. for C12H13NO4 (M): 235.0845. Found: 235.0846.

reactant | t-butylnitrite | 4.5 mmol, 535 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | allyl bromide | 45.0 mmol, 3.9 ml | C(C=C)Br | C3H5Br
reactant | ethyl 3-amino-5-nitrobenzoate | 3.0 mmol, 631 mg | NC=1C=C(C(=O)OCC)C=C(C1)[N+](=O)[O-] | C9H10N2O4
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | t-butylnitrite | 1.5 mmol, 180 μl | C(C)(C)(C)ON=O | C4H9NO2
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | ethyl 3-allyl-5-nitrobenzoate | 470 mg, 67% | C(C=C)C=1C=C(C(=O)OCC)C=C(C1)[N+](=O)[O-] | C12H13NO4
